US07244725B2
Step 2. (4-Neopentyl-1,1′-biphenyl-2-yl)methylamine
To borane-THF (1M, 1.7 mL, 1.7 mmol) was added 4-neopentyl-1,1′-biphenyl-2-carboxamide (200 mg, 0.75 mmol), and the reaction stirred at reflux 16 h. The solution was cooled and quenched with 1N HCl. The solution was basified with saturated sodium bicarbonate, and the product was extracted into ethyl acetate. The organics were washed with saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated in vacuo to give the title compound as an oil (200 mg). ESI MS m/z 254.22 [M+H]+.

reactant | borane THF | 1.7 mmol, 1M, 1.7 mL | B.C1CCOC1
reactant | 4-neopentyl-1,1′-biphenyl-2-carboxamide | 0.75 mmol, 200 mg | C(C(C)(C)C)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)N | C18H21NO
product | (4-Neopentyl-1,1′-biphenyl-2-yl)methylamine | 200 mg | C(C(C)(C)C)C1=CC(=C(C=C1)C1=CC=CC=C1)CN | C18H23N
